US07329664B2
Cool concentrated sulfuric acid (120 mL) in an ice bath under nitrogen atmosphere. Add in portions 6-amino-3′-trifluoromethyl[2,2′]bipyridinyl-5-carbonitrile (19.8 g) over a period of 15 minutes. Stir at room temperature 48 hours. Pour the reaction mixture over ice, adjust the pH to 10 using 10 N aqueous NaOH, filter the solid, wash the solid with water and dry under vacuum to give 6-amino-3′-trifluoromethyl-[2,2′]bipyridinyl-5-carboxylic acid amide as a light pink solid.

reactant | 6-amino-3′-trifluoromethyl[2,2′]bipyridinyl-5-carbonitrile | 19.8 g | NC1=C(C=CC(=N1)C1=NC=CC=C1C(F)(F)F)C#N | C12H7F3N4
reactant | NaOH | 10 N | [OH-].[Na+]
solvent | sulfuric acid | 120 mL | S(O)(O)(=O)=O | H2O4S
product | 6-amino-3′-trifluoromethyl-[2,2′]bipyridinyl-5-carboxylic acid amide | NC1=C(C=CC(=N1)C1=NC=CC=C1C(F)(F)F)C(=O)N | C12H9F3N4O
